US04010264
5 mmoles of 3(t-butyl)isoxazole-5 yl acetylchloride were prepared from 3(t-butyl)isoxazole-5-yl-acetic acid and thionylchloride in tetrachloromethane.

reactant | 3(t-butyl)isoxazole-5-yl-acetic acid | C(C)(C)(C)C1=NOC(=C1)CC(=O)O | C9H13NO3
reactant | thionylchloride | S(=O)(Cl)Cl | Cl2OS
solvent | tetrachloromethane | ClC(Cl)(Cl)Cl | CCl4
product | 3(t-butyl)isoxazole-5 yl acetylchloride | 5 mmoles | C(C)(C)(C)C1=NOC(=C1)CC(=O)Cl | C9H12ClNO2
